US07615651B2
Conversion to the ammonium salt—(4′-carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-ammonium chloride (E4-02)
(4′-Carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-4b: 8.0 g, 23 mmol) was dissolved in methanol (50 mL) and treated with 4M hydrogen chloride in dioxane (10 mL). After stirring for 12 hours, the volatiles were removed under reduced pressure and the resulting solid was titrated with hexanes and isolated by filtration to provide 7.1 g the title compound (E4-02) as a colorless solid.

reactant | (4′-Carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 23 mmol, 8.0 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(N)=O)C)=O | C25H34N2O3
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | ammonium salt—(4′-carbamoyl-2′-methyl-biphenyl-4-ylmethyl)-(3-methyl-butyl)-ammonium chloride | 7.1 g | [Cl-].C(N)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C[NH2+]CCC(C)C)C.[NH4+].[Cl-] | InChI=1S/C20H26N2O.2ClH.H3N/c1-14(2)10-11-22-13-16-4-6-17(7-5-16)19-9-8-18(20(21)23)12-15(19)3;;;/h4-9,12,14,22H,10-11,13H2,1-3H3,(H2,21,23);2*1H;1H3
